US07981874B2
4-[2-(4-Ethyl-4-oxido-1,4-azaphosphinan-1-yl)-2-oxoethyl]benzoic acid.
tert-Butyl 4-[2-(4-ethyl-4-oxido-1,4-azaphosphinan-1-yl)-2-oxoethyl]benzoate (270 mg, 0.739 mmol) was dissolved in CH2Cl2 (8 mL) and TFA (2 mL) and stirred at room temperature for 2 h. The solution was concentrated to dryness, redissolved in MeOH, and concentrated again to give the product as a colorless gum that was carried on without purification. MS: cal'd 310 (MH+), exp 310 (MH+).

reactant | tert-Butyl 4-[2-(4-ethyl-4-oxido-1,4-azaphosphinan-1-yl)-2-oxoethyl]benzoate | 0.739 mmol, 270 mg | C(C)P1(CCN(CC1)C(CC1=CC=C(C(=O)OC(C)(C)C)C=C1)=O)=O | C19H28NO4P
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | 4-[2-(4-Ethyl-4-oxido-1,4-azaphosphinan-1-yl)-2-oxoethyl]benzoic acid | C(C)P1(CCN(CC1)C(CC1=CC=C(C(=O)O)C=C1)=O)=O | C15H20NO4P
